US04847256
A mixture of 50.0 g of 3,4-dichloroacetophenone and 75 ml of N,N-dimethylformamide dimethyl acetal was heated under reflux for 6 hours, then allowed to cool for 16 hours. The crystalline precipitate was collected by filtration, washed with hexane and dried. The addition of hexane to the above filtrate precipitated some additional product which was collected by filtration. The precipitates were combined, washed with hexane and dried in vacuo to give 55.0 g of 3',4'-dichloro-3-dimethylaminoacrylophenone as bright yellow crystals.

reactant | 3,4-dichloroacetophenone | 50.0 g | CC(=O)C1=CC(=C(C=C1)Cl)Cl | C8H6Cl2O
reactant | N,N-dimethylformamide dimethyl acetal | 75 ml | COC(N(C)C)OC | C5H13NO2
product | 3',4'-dichloro-3-dimethylaminoacrylophenone | 55.0 g | ClC=1C=C(C=CC1Cl)C(C=CN(C)C)=O | C11H11Cl2NO
